US07078422B2
(4) 2-(2-Chlorophenyl)-5-isopropyl-4-[2-(p-toluenesulfonyloxy)ethyl]oxazole
In a mixture of methylene chloride (1 mL) and pyridine (2 mL) was dissolved 2-[2-(2-chlorophenyl)-5-isopropyloxazol-4-yl]ethanol (159 mg, 0.598 mmol). Under cooling with water, to the solution was added p-toluenesulfonyl chloride (125 mg, 0.658 mmol). The mixture was stirred for 5 hours. The reaction mixture was poured into 1N HCl and extracted with chloroform. The organic layer was successively washed with water, saturated aqueous sodium hydrogen carbonate and saturated brine, dried over sodium sulfate, filtered, and concentrated. The residue was purified by flash chromatography on silica gel (hexane/ethyl acetate=2/1), to obtain the desired compound (123 mg, 49%).

reactant | 2-[2-(2-chlorophenyl)-5-isopropyloxazol-4-yl]ethanol | 0.598 mmol, 159 mg | ClC1=C(C=CC=C1)C=1OC(=C(N1)CCO)C(C)C | C14H16ClNO2
reactant | water | O | H2O
reactant | p-toluenesulfonyl chloride | 0.658 mmol, 125 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | HCl | 1N | Cl | ClH
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2-Chlorophenyl)-5-isopropyl-4-[2-(p-toluenesulfonyloxy)ethyl]oxazole | 123 mg, 49% | ClC1=C(C=CC=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C(C)C | C21H22ClNO4S
